US04374249
A mixture of 2.65 g. of L-thiazolidine-4-carboxylic acid, 2,4,6-trimethylbenzyl ester, 2.75 g. of 3-bromo-3-(4-fluorobenzoyl)propionic acid, 2.47 g. of ethyl 1,2-dihydro-2-ethoxy-1-quinolinecarboxylate (EEDQ) and 200 ml. of dichloromethane is stirred at room temperature for 18 hours. The mixture is washed with cold dilute hydrochloric acid, dried over sodium sulfate and the solvent is removed to give 6.2 g. of a yellow oil. Column chromatography on silica gel with acetone hexane as eluent gives [4R]-3-[3-bromo-3-(4-fluorobenzoyl)propionyl]-4-thiazolidinecarboxylic acid, 2,4,6-trimethylbenzyl ester.

reactant | L-thiazolidine-4-carboxylic acid | C1C(NCS1)C(=O)O | C4H7NO2S
reactant | 3-bromo-3-(4-fluorobenzoyl)propionic acid | BrC(CC(=O)O)C(C1=CC=C(C=C1)F)=O | C10H8BrFO3
reactant | ethyl 1,2-dihydro-2-ethoxy-1-quinolinecarboxylate | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | acetone hexane | CCCCCC.CC(=O)C
product | [4R]-3-[3-bromo-3-(4-fluorobenzoyl)propionyl]-4-thiazolidinecarboxylic acid, 2,4,6-trimethylbenzyl ester | BrC(CC(=O)N1CSC[C@H]1C(=O)OCC1=C(C=C(C=C1C)C)C)C(C1=CC=C(C=C1)F)=O | C24H25BrFNO4S
